US07312233B2
2-amino-3-hydroxy-5-nitropyridine
Into a 500 mL round bottom flask were combined 2-amino-3-methoxy-5-nitropyridine (0.300 g, 0.00177 mol) and solid pyridine hydrochloride (8.8 g, 0.076 mol). The solid mixture was heated at 150° C. upon which the solids fused (the evolution of a gas was also apparent). The mixture was held at 150° C. for three hours upon which reaction was deemed complete by LC-MS. After allowing to cool to 80° C., the mixture was poured on to ice and the aqueous layer was extracted with ethyl acetate (3×100 ml). The combined organic extracts were washed with water (2×100 mL), dried (Na2SO4), filtered and concentrated under vacuum to leave a crude residue. The residue was purified by column chromatography on silica gel using a methanol:methylene chloride (0-10%) gradient as eluent to give the product as a solid (0.138 g, 49%) which was used directly in the next step. LC-MS 1.28 min. m/z=155.9 (M+1).

reactant | 2-amino-3-methoxy-5-nitropyridine | 0.00177 mol, 0.300 g | NC1=NC=C(C=C1OC)[N+](=O)[O-] | C6H7N3O3
reactant | pyridine hydrochloride | 0.076 mol, 8.8 g | Cl.N1=CC=CC=C1
product | 2-amino-3-hydroxy-5-nitropyridine | 0.138 g, 49% | NC1=NC=C(C=C1O)[N+](=O)[O-] | C5H5N3O3
